US04873236
4,9-Dihydro-3-methyl-4-[[[2-[4-[3-(1-methyl-pyrrolidin-2-yl)propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
Prepared analogously to Example 109 from 4-[[[2-bromo-ethyl]amino]carbonyl]-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 4-[3-(1-methyl-pyrrolidin-2-yl)propyl]piperidine in a yield of 18% of theory. Colourless crystals, m.p. 145°-146° C. (from ethyl acetate/ethanol). RF =0.5 (TLC investigation as in Example 114).

reactant | 4-[[[2-bromo-ethyl]amino]carbonyl]-4,9-dihydro-3-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | BrCCNC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2C | C15H14BrN3O2S
reactant | 4-[3-(1-methyl-pyrrolidin-2-yl)propyl]piperidine | CN1C(CCC1)CCCC1CCNCC1 | C13H26N2
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | 4,9-Dihydro-3-methyl-4-[[[2-[4-[3-(1-methyl-pyrrolidin-2-yl)propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | yield of 18% | CC=1SC=C2C1N(C1=C(NC2=O)C=CC=C1)C(=O)NCCN1CCC(CC1)CCCC1N(CCC1)C | C28H39N5O2S
